US06403595B1
1-[4-(1H-imidazol-1-yl)benzyl]-2-piperazinone Dihydrochloride
To a solution of 4-(tert-butoxycarbonyl)-1-[4-(1H-imidazol-1-yl)benzyl]-2-piperazinone (1.5 g) in methanol (10 ml) was added 4N hydrochloric acid in ethyl acetate solution (50 ml), and the mixture was stirred at room temperature for 1 hour. The reaction solution was concentrated, and the residue was powdered with ethyl acetate, filtered and dried to give hygroscopic colorless solid of the title compound (1.12 g).

reactant | 4-(tert-butoxycarbonyl)-1-[4-(1H-imidazol-1-yl)benzyl]-2-piperazinone | 1.5 g | C(C)(C)(C)OC(=O)N1CC(N(CC1)CC1=CC=C(C=C1)N1C=NC=C1)=O | C19H24N4O3
reactant | hydrochloric acid | 4N | Cl | ClH
solvent | methanol | 10 ml | CO | CH4O
solvent | ethyl acetate | 50 ml | C(C)(=O)OCC | C4H8O2
product | 1-[4-(1H-imidazol-1-yl)benzyl]-2-piperazinone Dihydrochloride | 1.12 g | Cl.Cl.N1(C=NC=C1)C1=CC=C(CN2C(CNCC2)=O)C=C1 | InChI=1S/C14H16N4O.2ClH/c19-14-9-15-5-7-17(14)10-12-1-3-13(4-2-12)18-8-6-16-11-18;;/h1-4,6,8,11,15H,5,7,9-10H2;2*1H
